US04379166
A. 2-(4-Benzyloxy-2-Butylamino)-1-(4-Hydroxy-3-Methylsulfinylphenyl)Ethanol
Combine 4-benzyloxy-2-butanone (1.78 g, 10 mmol) with 2-amino-1-(4-hydroxy-3-methylsulfinylphenyl)ethanol (10 mmol) in methanol (50 ml) and add sodium cyanoborohydride (0.63 g, 10 mmol). Let stand 16 hours, concentrate the solution and purify the crude product by chromatography on silica gel using chloroform: methanol: ammonium hydroxide (70:27:3) as eluent to obtain the title compound.

reactant | 4-benzyloxy-2-butanone | 10 mmol, 1.78 g | C(C1=CC=CC=C1)OCCC(C)=O | C11H14O2
reactant | 2-amino-1-(4-hydroxy-3-methylsulfinylphenyl)ethanol | 10 mmol | NCC(O)C1=CC(=C(C=C1)O)S(=O)C | C9H13NO3S
reactant | sodium cyanoborohydride | 10 mmol, 0.63 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-(4-Benzyloxy-2-Butylamino)-1-(4-Hydroxy-3-Methylsulfinylphenyl)Ethanol | C(C1=CC=CC=C1)OCCC(C)NCC(O)C1=CC(=C(C=C1)O)S(=O)C | C20H27NO4S
